US05763359
32. Preparation of N-(1-Ethyl-5-methyl3-(trifluoromethyl)-4-pyrazolyl)-5-methoxy-7-methyl[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide
A 25 percent solution of sodium methoxide in methanol (1.65 g, 5.4 mmol) was added to a solution of 1.14 g (2.70 mmol) of N-(1-ethyl-5-methyl-3-(trifluoromethyl)-4-pyrazolyl)-5-chloro-7-methyl[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide in 25 mL of dimethyl sulfoxide (DMSO) at ambient temperature with stirring. After 18 hours, 1.0 mL of acetic acid was added and the resulting mixture was concentrated by evaporation under reduced pressure. The residue was diluted with 25 mL of water and the resulting slurry was stirred for 10 min and then the insoluble solids collected by filtration, washed twice with 10 mL portions of water and then with 25 mL of ether, and dried under reduced pressure at 40° C. overnight. The resulting white solid, which amounted to 1.03 g (92 percent of theory) and melted at 230°-231° C. (d), was the title compound (Compound 2).

reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 5.4 mmol, 1.65 g | CO | CH4O
reactant | N-(1-ethyl-5-methyl-3-(trifluoromethyl)-4-pyrazolyl)-5-chloro-7-methyl[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | 2.70 mmol, 1.14 g | C(C)N1N=C(C(=C1C)NS(=O)(=O)C1=NN2C(C=C(C=C2Cl)C)=N1)C(F)(F)F | C14H14ClF3N6O2S
reactant | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
product | N-(1-Ethyl-5-methyl3-(trifluoromethyl)-4-pyrazolyl)-5-methoxy-7-methyl[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | C(C)N1N=C(C(=C1C)NS(=O)(=O)C1=NN2C(C=C(C=C2OC)C)=N1)C(F)(F)F | C15H17F3N6O3S
